US05670503
To a solution of 7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine (207 mg) in acetic acid (2 ml) was added acetic anhydride (75 mg) with ice cooling. The solution was stirred at ambient temperature for 1 hour and concentrated in vacuo. The residue was dissolved in water (3 ml) and the solution was neutralized with an aqueous saturated sodium bicarbonate solution. The separated oil was extracted with dichloromethane and the extract was dried and concentrated in vacuo. The residue was crystallized from ethyl acetate to give 2-acetyl-7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine (195 mg).

reactant | 7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine | 207 mg | FC1=CC=C(C=C1)C1=NN2C(NNCC2)=C1C1=CC=NC=C1 | C16H14FN5
reactant | acetic anhydride | 75 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 2-acetyl-7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine | 195 mg | C(C)(=O)N1NC=2N(CC1)N=C(C2C2=CC=NC=C2)C2=CC=C(C=C2)F | C18H16FN5O
